* C:\Users\hp\Desktop\LTspice files\LTspice-XVII\CMOS_Inverter\INV_shcematic.asc
VDD N001 0 5
Vin N002 0 PULSE(0 5 0 0 0 10m 20m)
M1 N003 N002 N001 N001 PMOS
M2 N003 N002 0 0 NMOS
C1 N003 0 1p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hp\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 50m
.backanno
.end
