* C:\Users\hp\Desktop\LTspice files\LTspice-XVII\Diode Problems\problem_3_52\problem_352.asc
D1 N001 N002 D
C1 N002 0 1µ
R1 N002 0 100
V1 N001 0 SINE(0 5 60)
.model D D
.lib C:\Users\hp\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10n 100m
.backanno
.end
