* C:\Users\hp\Desktop\LTspice files\LTspice-XVII\Diode Problems\problem_3_53\problem_353.asc
D1 N001 N002 D
D2 N004 N003 D
D3 N001 N004 D
D4 N002 N003 D
V1 N002 0 1
Vee P001 0 -2.5
Vcc P002 0 2.5
R1 P002 N001 1k
R2 N003 P001 1k
.model D D
.lib C:\Users\hp\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V1 -2 2 10m
.backanno
.end
