* C:\Users\hp\Desktop\LTspice files\LTspice-XVII\Diode Problems\problem_3_54\problem_354.asc
V1 N001 0 4
R1 N001 N002 2k
D1 N002 N003 D
D2 N002 N004 D
V2 N003 0 3.2
V3 N004 0 3.2
.model D D
.lib C:\Users\hp\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V1 0 4 100m
.backanno
.end
