* C:\Users\hp\Desktop\LTspice files\problem_351.asc
R1 N002 N001 500
R2 0 N003 1k
D1 N002 N003 D
D2 0 N002 D
V1 N001 0 1
.model D D
.lib C:\Users\hp\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V1 -2 2 1m
.backanno
.end
